US04298739
2.5 Grams of 6-(3-carboxy)propoxycarbostyril and 1.8 ml of pyridine are added to 50 ml of tetrahydrofuran, and then 1.0 ml of methyl bromoformate is added dropwise to said solution under external ice cooling and agitation while maintaining the internal temperature at 5°-15° C. after addition, the mixture is further agitated at room temperature for 1 hour and then added with 1.2 g of N-methylcyclohexylamine, followed by additional 3-hour agitation. The reaction solution is poured into 200 ml of saturated NaCl solution and the precipitated crystals are filtered out and washed with water. The obtained crude crystals are recrystallized from chloroform-ethanol to obtain 2.3 g of 6-[3-(N-methyl-N-cyclohexylaminocarbonyl)propoxy]carbostyril in the form of colorless needle-like crystals with m.p. of 184.5°-186° C.

reactant | 6-(3-carboxy)propoxycarbostyril | C(=O)(O)CCCOC=1C=C2C=CC(NC2=CC1)=O | C13H13NO4
reactant | methyl bromoformate | 1.0 ml | BrC(=O)OC | C2H3BrO2
reactant | N-methylcyclohexylamine | 1.2 g | CNC1CCCCC1 | C7H15N
reactant | NaCl | 200 ml | [Na+].[Cl-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | pyridine | 1.8 ml | N1=CC=CC=C1 | C5H5N
product | 6-[3-(N-methyl-N-cyclohexylaminocarbonyl)propoxy]carbostyril | 2.3 g | CN(C(=O)CCCOC=1C=C2C=CC(NC2=CC1)=O)C1CCCCC1 | C20H26N2O3
